US09403807B2
Step C: N-(1-(3-(4-chlorophenyl)-2-hydroxy-2-methylpentan-3-yl)-6-fluoro-1H-indol-4-yl)methanesulfonamide (Compound 90)
To a mixture of compound 3-(4-amino-6-fluoro-1H-indol-1-yl)-3-(4-chlorophenyl)-2-methylpentan-2-ol (176 mg, 0.489 mmol) and NMM (145 mg, 1.467 mmol) in DCM (10.0 mL) was added methanesulfonyl chloride (112 mg, 0.978 mmol) dropwise. Then the mixture was stirred at room temperature overnight. The reaction was quenched with saturated ammonium chloride solution, and extracted with ethyl acetate (50 mL). The organic layers was washed with brine, dried over dry sodium sulfate, filtered and evaporated. The residue was purified by Prep-TLC (eluent: ethyl acetate/petroleum=4:1) to obtain the title compound. LC/MS m/z=438.9 [M+H]+. 1H NMR (400 MHz, MeOD) δ 8.02 (s, 1H), 7.57-7.25 (m, 4H), 6.86 (dd, J=10.9, 2.1 Hz, 1H), 6.74 (d, J=3.6 Hz, 1H), 5.85 (d, J=11.1 Hz, 1H), 3.00 (s, 3H), 2.84-2.73 (m, 1H), 2.61-2.47 (m, 1H), 1.31 (s, 3H), 1.27 (s, 3H), 0.64 (t, J=7.3 Hz, 3H).

reactant | 3-(4-amino-6-fluoro-1H-indol-1-yl)-3-(4-chlorophenyl)-2-methylpentan-2-ol | 0.489 mmol, 176 mg | NC1=C2C=CN(C2=CC(=C1)F)C(C(C)(O)C)(CC)C1=CC=C(C=C1)Cl | C20H22ClFN2O
reactant | NMM | 1.467 mmol, 145 mg | CN1CCOCC1 | C5H11NO
reactant | methanesulfonyl chloride | 0.978 mmol, 112 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(3-(4-chlorophenyl)-2-hydroxy-2-methylpentan-3-yl)-6-fluoro-1H-indol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(C(C)(C)O)(CC)N1C=CC2=C(C=C(C=C12)F)NS(=O)(=O)C | C21H24ClFN2O3S
